US05977141
(b) (S)-3-(4-Benzyloxy-phenyl)-2-[4-(4-phenyl-piperidin-1-yl) -benzenesulfonylamino]-propionic acid
In a manner similar to Example 3(b), (S)-3-(4-benzyloxy-phenyl)-2-(4-fluoro-benzenesulfonylamino)-propionic acid was condensed with 4-phenyl-piperidine hydrochloride to give the title compound, mp=75-78° C.

reactant | (S)-3-(4-benzyloxy-phenyl)-2-(4-fluoro-benzenesulfonylamino)-propionic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)F | C22H20FNO5S
reactant | 4-phenyl-piperidine hydrochloride | Cl.C1(=CC=CC=C1)C1CCNCC1
product | (S)-3-(4-Benzyloxy-phenyl)-2-[4-(4-phenyl-piperidin-1-yl) -benzenesulfonylamino]-propionic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C33H34N2O5S
